### PR TITLE
[Merged by Bors] - feat: bijectivity criteria for continuous linear maps

### PR DESCRIPTION
**Pull request by j-loreaux**
This establishes some common bijectivity criteria (antilipschitz and dense range) for continuous (semi)linear maps between Banach spaces.

---

The additional import was necessary because we're using `ContinuousLinearEquiv.antilipschitz`, but I couldn't think of a better file in which to place these results.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/NormedSpace/Banach.lean [hunk 1]
```diff
@@ -545,3 +545,43 @@ theorem coe_ofSeqClosedGraph
...
+    · exact ⟨_, by simpa⟩
+    all_goals simp only [LinearMap.range_eq_top, LinearMapClass.ker_eq_bot]
+    exacts [h.1, h.2]
+  case surj => rwa [← LinearMap.range_eq_top, ← closed_range_of_antilipschitz hf]
+
+lemma _root_.AntilipschitzWith.completeSpace_range_clm {f : E →SL[σ] F} {c : ℝ≥0}
+    (hf : AntilipschitzWith c f) : CompleteSpace (LinearMap.range f) :=
+  IsClosed.completeSpace_coe <| hf.isClosed_range f.uniformContinuous
+
+lemma isUnit_iff_bijective {f : E →L[𝕜] E} : IsUnit f ↔ Bijective f := by
```
Comment (ADedecker) [inline Mathlib/Analysis/NormedSpace/Banach.lean:575]: I feel like this should be a bit earlier in the file? I would say newt to `ContinuousLinearEquiv.ofBijective`

**Review by ADedecker — APPROVED** [review]
Thanks! Feel free to ignore some of my stylistic comments if you feel like I'm forcing my style too much.

bors d+

**Comment by j-loreaux** [comment]
bors merge
